US06635771B2
To 6-chloro-1H-indole-2-carbaldehyde (1 equiv.) in DMF at 0° C. was added NaH (1.25 equiv.) portionwise followed by benzhydryl bromide (1.46 equiv.) and Bu4Nl (0.05 equiv.). The mixture was stirred at rt for 42 h before quenching with cold 0.4N HCl at 0° C. After neutralization, the aqueous layer was extracted with ether and the organic layer was washed with cold H2O and dried. Flash chromatography on silica gel gave 1-benzhydryl-6-chloro-1H-indole-2-carbaldehyde in 40% yield.

reactant | 6-chloro-1H-indole-2-carbaldehyde | 1 equiv. | ClC1=CC=C2C=C(NC2=C1)C=O | C9H6ClNO
reactant | NaH | 1.25 equiv. | [H-].[Na+]
reactant | benzhydryl bromide | 1.46 equiv. | C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C13H11Br
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-benzhydryl-6-chloro-1H-indole-2-carbaldehyde | 40% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=CC2=CC=C(C=C12)Cl)C=O | C22H16ClNO
